Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Pt is an ___ y/o M with PMHx of COPD, BPH, spinal stenosis, as 
well as recurrent UTI (2 recent admissions for UTI), here with 
altered mental status at home. Of note, at the time of my 
interview, pt is somewhat confused about how he got to the 
hospital, so history is somewhat limited.

Pt was recently admitted to ___ ___ and ___ with 
UTI. He was recently treated with zosyn, which he completed 
approximately 1 week ago. Pt had been discharged to rehab but 
has since gone home. He reports doing well at home until the 
night prior to presentation. That night, he awoke to urinate; 
however, he had an episode of urinary incontinence prior to 
arriving in the bathroom. He also endorses a mechanical fall on 
his way to the bathroom (slid to the ground while having trouble 
navigating his walker, no head strike, no LOC, no prodromal 
symptoms). He reports that EMS was called, helped him up, but 
did not bring him to the hospital at that time.

The events of the morning of presentation are unclear to the 
patient, however. Per ED report, he noted to be disoriented at 
home. 

ED Course:
Initial VS: 99.8 120 183/83 18 87% RA Pain 
Labs significant for Cr 1.6 (baseline 1.0)
Imaging: CXR with bibasilar atelectasis (per prelim read)
Meds given:
-Albuterol 0.083% Neb Soln 0.083% 
-Ipratropium Bromide Neb 
-Acetaminophen (Rectal) 650mg Supp 
-Albuterol 0.083% Neb Soln 0.083% 
-Ipratropium Bromide Neb 
-Ceftriaxone (Mini Bag Plus) 
-Vancomycin 1g 
-Azithromycin 500 mg 
VS prior to transfer: 99.7 ___ 16 96% Nasal Cannula  Pain 
___

Spiked temp to 104.6 in the ED. He was also noted to have a 
cough and to be hypoxic. Initial ED read of the CXR was also 
concerned for multifocal PNA, for which abx were started.

On arrival to the floor, the patient reports feeling mildly 
lightheaded. He endorses chronic dyspnea, but feels that his 
breathing is below baseline currently. He also reports a dry 
cough which he first noted today. Denies any F/C.

ROS: As above. Denies headache, sore throat, sinus congestion, 
chest pain, heart palpitations, nausea, vomiting, diarrhea, 
constipation, muscle or joint pains, focal numbness or tingling, 
skin rash. The remainder of the ROS was negative.

 
Past Medical History:
BPH
HTN
Carotid artery disease 
Severe COPD
Lumbar facet arthropathy
Spinal Stenosis
Mild cognitive impairment
Osteoporosis 
Neuropathy
Anemia
Stroke -> on med rec, but pt and wife unaware

 
Social History:
___
Family History:
Mother died of heart disease.

 
Physical Exam:
VS - 98.3 90/54 85 20 93%5L Pain ___
GEN - Alert, NAD
HEENT - NC/AT, dry MM
NECK - Supple, no JVD
CV - Faint HS difficult to appreciate over lung sounds
RESP - Rhonchorous (more so on the right)
ABD - S/NT/ND, BS present
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes
NEURO - Alert, Oriented x 3, Non-focal
PSYCH - Calm, appropriate

 
Pertinent Results:
Admission Labs:
___ 06:10PM BLOOD WBC-6.7 RBC-4.67 Hgb-12.8* Hct-40.7 
MCV-87 MCH-27.3 MCHC-31.3 RDW-14.3 Plt ___
___ 06:10PM BLOOD Neuts-78.2* Lymphs-15.5* Monos-5.3 
Eos-0.3 Baso-0.7
___ 06:10PM BLOOD Glucose-100 UreaN-22* Creat-1.6* Na-141 
K-4.2 Cl-106 HCO3-23 AnGap-16

Discharge Labs:
___ 06:40AM BLOOD WBC-7.7# RBC-4.06* Hgb-11.1* Hct-34.6* 
MCV-85 MCH-27.4 MCHC-32.1 RDW-14.2 Plt ___
___ 06:40AM BLOOD Glucose-79 UreaN-16 Creat-1.1 Na-140 
K-4.1 Cl-106 HCO3-25 AnGap-13
___ 06:40AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.0

Urinalysis:
___ 06:35AM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:35AM URINE Blood-MOD Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 06:35AM URINE ___ Bacteri-MOD Yeast-NONE 
___

___ 6:35 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    >100,000 ORGANISMS/ML.. 
         CIPROFLOXACIN AND  Piperacillin/Tazobactam sensitivity 
testing
         performed by ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------       S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------   <=1 S

Blood Cx PENDING x 2

ECG (___) - Sinus tachycardia with first degree A-V delay. Low 
limb lead voltage. Non-specific anterolateral ST-T wave changes. 
Compared to the previous tracing of ___ the heart rate has 
increased. Lateral ST-T wave changes are new but are 
non-specific.  

CXR (___) - IMPRESSION:  Mild basilar atelectasis without 
definite focal consolidation.  If high clinical concern for 
consolidation, consider dedicated PA and lateral views when 
patient able. 

Prostate U/S (___) - IMPRESSION:  No evidence of prostatic 
abscess. 

Kidney U/S (___) - IMPRESSION:  Bilateral simple renal cysts. 
No evidence of abscess. 

CT Chest (___) - IMPRESSION:  
1. Multiple pulmonary nodules and a left apical nodular opacity. 
Recommend 3 month followup CT for further evaluation. 
2.  Evidence of resolving prior right lower lobe pneumonia. 
3.  Moderate centrilobular emphysema. 

CXR PA/LAT (___) - IMPRESSION:    
Hyperinflated lungs without definite signs of pneumonia. 
Possible small basilar pleural effusions versus pleural 
thickening. 
 
Brief Hospital Course:
# SIRS: Due to pseudomonas UTI.  Third pseudomonas UTI in two 
months.  No evidence of abscess on imaging.  Likely has some 
component of chronic urinary retention, +/- neurogenic bladder.  
Will need close outpatient urology follow up for urodynamic 
testing.  Continued Flomax to help manage BPH.  Cultures 
ultimately grew pan-sensitive pseudomonas (see above).  After 
discussing with ID, pt was transitioned to ciprofloxacin for ___OPD: Continued on albuterol/ipratropium nebs prn.  Continued 
Advair, Spiriva.  Of note, pt did have some episodes of hypoxia, 
which resolved with deep breathing.  CXR x 2 without evidence of 
acute process.

# Hypertension: Pt was continued on amlodipine.

# BPH: Pt was continued on tamsulosin.  Will need to follow-up 
with urology as above.

# Lumbar spinal Stenosis s/p laminectomy with resultant 
bilateral foot drop- Lyrica and Percocet for pain control

# Lung Nodules - See CT read above. Repeat CT chest recommended 
in 3 months.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
2. Alendronate Sodium 70 mg PO WEEKLY 
3. Amlodipine 5 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Fluoxetine 10 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU BID 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY 
11. Pregabalin 100 mg PO TID 
12. Senna 8.6 mg PO BID:PRN Constipation 
13. Tamsulosin 0.4 mg PO HS 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Vitamin B Complex 1 CAP PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Aspirin 81 mg PO DAILY 
18. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
19. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
20. Ipratropium Bromide MDI 2 PUFF IH QID 
21. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
22. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN sob 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Amlodipine 5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Fluoxetine 10 mg PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
11. Polyethylene Glycol 17 g PO DAILY 
12. Pregabalin 100 mg PO TID 
13. Senna 8.6 mg PO BID:PRN Constipation 
14. Tamsulosin 0.4 mg PO HS 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. Vitamin B Complex 1 CAP PO DAILY 
17. Vitamin D 1000 UNIT PO DAILY 
18. Alendronate Sodium 70 mg PO WEEKLY 
19. Ipratropium Bromide MDI 2 PUFF IH QID 
20. Multivitamins 1 TAB PO DAILY 
21. Omeprazole 40 mg PO DAILY 
22. Ciprofloxacin HCl 500 mg PO Q12H 
To complete a total ___nding on ___. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
Pseudomonas UTI
COPD
lumbar spinal stenosis s/p laminectomy
neuropathy
BPH
? neurogenic bladder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital with another bladder 
infection.  You improved with antibiotics.  This is the third 
bladder infection in the past two months.  Your bladder likely 
does not empty completely, which a risk factor for recurrent 
bladder infections.  It is important that you follow up with 
your urologist after discharge for additional evaluation.
 
Followup Instructions:
___